US07445915B2
L-Arginine Production Test by ISOM Mutant Strain
Each of the strain AUL-6 and its parent strain FERM P-3616 was cultured at 30° C. for 24 hours on the BYG agar medium and then inoculated into a thick test tube charged with 6 ml of a seed medium (a medium prepared by dissolving 20 g of glucose, 10 g of peptone, 10 g of yeast extract and 2.5 g of sodium chloride in 1 liter of water and adjusting its pH to 7.2) and cultured at 30° C. for 24 hours. Next, 2 ml of the seed culture broth was inoculated into a 300 ml capacity conical flask charged with 20 ml of a main culture medium (a medium prepared by dissolving 150 g of blackstrap molasses (as glucose), 5 g of corn steep liquor, 30 g of ammonium sulfate, 3 g of urea, 0.5 g of dipotassium hydrogenphosphate, 0.5 g of potassium dihydrogenphosphate and 0.25 g of magnesium sulfate dihydrate in 1 liter of water, adjusting its pH to 7.2 and then adding 30 g of calcium carbonate thereto) and cultured at 30° C. for 72 hours.

reactant | glucose | 20 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ammonium sulfate | 30 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | urea | 3 g | NC(=O)N | CH4N2O
reactant | dipotassium hydrogenphosphate | 0.5 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | potassium dihydrogenphosphate | 0.5 g | P(=O)(O)(O)[O-].[K+]
reactant | magnesium sulfate dihydrate | 0.25 g | O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | calcium carbonate | 30 g | C([O-])([O-])=O.[Ca+2]
solvent | water | 1 liter | O | H2O
product | L-Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
